US08389764B2
Benzyl[(R)-5-tert-butoxycarbonylamino-5-((S)-1-carbamoyl-2-methyl-propylcarbamoyl)-pentyl]-carbamate
N-Methylmorpholine (0.87 ml, 7.9 mmol), 1-hydroxybenzotriazole (0.46 g, 3.41 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.65 g, 3.41 mmol) were added in this sequence to a solution of commercially available (R)-6-benzyloxycarbonylamino-2-tert-butoxycarbonylamino-hexanoic acid (1 g, 2.63 mmol) and commercially available (S)-2-amino-3-methylbutyramide hydrochloride (0.40 g, 2.63 mmol) in 12 ml of CH2Cl2 and 4 ml of DMF, and the mixture was stirred at RT for about 14 h. Flash chromatography (gradient heptane/AcOEt to CH2Cl2/MeOH) afforded 1 g of the product (79%).

reactant | N-Methylmorpholine | 7.9 mmol, 0.87 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 3.41 mmol, 0.46 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.41 mmol, 0.65 g | Cl.CN(CCCN=C=NCC)C
reactant | (R)-6-benzyloxycarbonylamino-2-tert-butoxycarbonylamino-hexanoic acid | 2.63 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](C(=O)O)NC(=O)OC(C)(C)C | C19H28N2O6
reactant | (S)-2-amino-3-methylbutyramide hydrochloride | 2.63 mmol, 0.40 g | Cl.N[C@H](C(=O)N)C(C)C
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | heptane AcOEt | CCCCCCC.CCOC(=O)C
product | Benzyl[(R)-5-tert-butoxycarbonylamino-5-((S)-1-carbamoyl-2-methyl-propylcarbamoyl)-pentyl]-carbamate | 1 g, 79% | C(C1=CC=CC=C1)OC(NCCCC[C@H](C(N[C@@H](C(C)C)C(N)=O)=O)NC(=O)OC(C)(C)C)=O | C24H38N4O6
